US03931268
16.5 g. of 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride were added to 100 ml. of absolute benzene and treated with 3.1 g. of cyclopropylamine hydrochloride. 7.5 g. of triethylamine and 50 ml. of benzene were then dropped into the reaction mixture at 20°-30° with stirring. The reaction mixture was worked up as in Example 3, yielding 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzoic acid cyclopropylamide, the carbobenzoxy groups of which were then removed by treatment with hydrogen bromide/glacial acetic acid. The product, 4-[(2-methyl-hydrazino)-methyl]-benzoic acid cyclopropylamide hydrobromide, melted at 180°-182°.

reactant | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)Cl)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23ClN2O5
reactant | cyclopropylamine hydrochloride | Cl.C1(CC1)N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzoic acid cyclopropylamide | C1(CC1)NC(C1=CC=C(C=C1)CN(N(C(=O)OCC1=CC=CC=C1)C)C(=O)OCC1=CC=CC=C1)=O | C28H29N3O5
